US05179100
11-Amino-2-benzyl-4,5-dihydro-2H-pyrazolo[3,4-a]acridine
To a solution of 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine (2.36 g) in dry DMF (90 ml) was added NaH (60%)(0.50 g) slowly. The reaction was stirred at room temperature for 15 minutes and then benzyl bromide (1.88 g) was added and the reaction was stirred an additional 15 minutes. At the end of this time the product was precipitated with water, filtered off, washed well with water, and air dried to yield a product which was further purified by flash chromatography (5% Et3N-EtOAc). The product-containing fractions were combined, concentrated, and recrystallized from EtOAc to give 2.35 g, mp 206°-207°.

reactant | 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine | 2.36 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)NN=C3 | C14H12N4
reactant | NaH | 0.50 g | [H-].[Na+]
reactant | benzyl bromide | 1.88 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 11-Amino-2-benzyl-4,5-dihydro-2H-pyrazolo[3,4-a]acridine | NC=1C2=CC=CC=C2N=C2CCC=3C(C12)=NN(C3)CC3=CC=CC=C3 | C21H18N4
